US07030141B2
Step 3: (2R,4R)-2-(4-Bromo-2-fluoro-phenylcarbamoyl)-4-(tert-butyl-dimethyl-silanyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
(2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (1.54 g, 4.5 mmol) was dissolved in 50 mL diethyl ether under an Ar atmosphere, cooled in an ice water bath, added dry pyridine (1.4 mL, 17.8 mmol), followed by the dropwise addition of oxalyl chloride (0.58 mL, 6.7 mmol). Reaction was stirred at 0° C. for 1 hour, then at ambient temperature for 1 hour. Diluted reaction with 50 mL diethyl ether, filtered off solids and concentrated filtrates. Redissolved filtrate in 30 mL dry DCM under an Ar atmosphere, cooled in an ice water bath, added 1 mL dry pyridine followed by 4-bromo-2-fluoroaniline (0.85 g, 4.5 mmol). Stirred reaction at ambient temperature for 20 hours. Concentrated solution, redissolved in EtOAc (150 mL), washed with 10% citric acid (3×100 mL), water (2×100 mL), brine, dried with MgSO4, filtered and concentrated. Purified on a silica gel column eluting with an automated system with gradient of 0-60% EtOAc in hexanes over 40 minutes. Combined and concentrated pure fractions to yield title compound as a clear oil. (0.96 g, 42%) APCI (AP−): 515.1, 517.1 (M−H)−.

reactant | (2R,4R)-4-(tert-Butyl-dimethyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 4.5 mmol, 1.54 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)O | C16H31NO5Si
reactant | pyridine | 17.8 mmol, 1.4 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 6.7 mmol, 0.58 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-bromo-2-fluoroaniline | 4.5 mmol, 0.85 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | (2R,4R)-2-(4-Bromo-2-fluoro-phenylcarbamoyl)-4-(tert-butyl-dimethyl-silanyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(NC1=C(C=C(C=C1)Br)F)=O | C22H34BrFN2O4Si
